US07435828B2
3-Cyclohexyl-2-[(Z)-isopropylimino]-thiazolidin-4-one is prepared starting from cyclohexylamine, chloroacetyl chloride and isopropylisothiocyanate following Method B. LC-MS: tR=0.83 min, [M+1]+=241, 1H NMR (CDCl3): δ 4.30 (tt, J=3.6, 12.0 Hz, 1H), 3.69 (s, 2H), 3.37 (hep, J=6.4 Hz, 1H), 2.40-2.25 (m, 2H), 1.84-1.75 (m, 2H), 1.64-1.50 (m, 2H), 1.40-1.20 (m, 4H), 1.14 (d, J=6.4 Hz, 6H).

reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | isopropylisothiocyanate | C(C)(C)N=C=S | C4H7NS
product | 3-Cyclohexyl-2-[(Z)-isopropylimino]-thiazolidin-4-one | C1(CCCCC1)N1/C(/SCC1=O)=N/C(C)C | C12H20N2OS
